US06911447B2
Preparation of 2-acetylamino-N-{1-(4-fluorobenzyl)-2-[2-(1H-imidazol-4-ylmethyl)-5-naphthalen-2-ylmethyl-3-oxo-piperazin-1-yl]-2-oxo-ethyl}-3-(4-hydroxyphenyl) propionamide (74):
2-acetylamino-N-[2-[2-(1-benzyl -1H-imidazol-4-ylmethyl)-5-naphthalen-2-ylmehtyl-3-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-3-(4-hydroxyphenyl)-propionamide, 73, (0.22 g, 0.28 mmol) is dissolved in ethanol/acetic acid (4:1) (3 mL). Cyclohexene (3 mL) and Pd-black are added and the solution is refluxed with periodic replenishment of cyclohexene. The reaction is monitored by TLC and after 2 days is cooled and filtered through Celite to remove the catalyst. The filtrate is concentrated in vacuo to afford an oil which is purified by reverse phase C18 prep HPLC to afford the desired product.

reactant | 2-acetylamino-N-[2-[2-(1-benzyl -1H-imidazol-4-ylmethyl)-5-naphthalen-2-ylmehtyl-3-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-3-(4-hydroxyphenyl)-propionamide | C(C)(=O)NC(C(=O)NC(C(=O)N1C(C(NC(C1)CC1=CC2=CC=CC=C2C=C1)=O)CC=1N=CN(C1)CC1=CC=CC=C1)CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)O | C46H45FN6O5
reactant | Cyclohexene | 3 mL | C1=CCCCC1 | C6H10
solvent | ethanol acetic acid | 3 mL | C(C)O.C(C)(=O)O
catalyst | Pd | [Pd] | Pd
product | 2-acetylamino-N-{1-(4-fluorobenzyl)-2-[2-(1H-imidazol-4-ylmethyl)-5-naphthalen-2-ylmethyl-3-oxo-piperazin-1-yl]-2-oxo-ethyl}-3-(4-hydroxyphenyl) propionamide | C(C)(=O)NC(C(=O)NC(C(=O)N1C(C(NC(C1)CC1=CC2=CC=CC=C2C=C1)=O)CC=1N=CNC1)CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)O | C39H39FN6O5
